US08541457B2
Preparation of 2-(Isonicotinamido)-4-methylthiazole-5-carboxylic Acid
A mixture of ethyl 2-(isonicotinamido)-4-methylthiazole-5-carboxylate (1.46 g, 5.0 mmol) and sodium hydroxide (0.40 g, 10.00 mmol) in methanol (100 mL) and water (25 mL) was stirred at ambient temperature overnight and then heated to reflux for 2 h. The mixture was concentrated and then neutralized with 5% hydrochloric acid solution to pH 5˜6. The precipitate obtained was collected by filtration and dried to give the title compound in 89% yield (1.17 g); 1H NMR (DMSO-d5, 300 MHz) δ 8.74 (d, J=6.0 Hz, 2H), 7.93 (d, J=6.0 Hz, 2H), 2.46 (s, 3H); MS (ES+) m/z 264.1 (M+1).

reactant | ethyl 2-(isonicotinamido)-4-methylthiazole-5-carboxylate | 5.0 mmol, 1.46 g | C(C1=CC=NC=C1)(=O)NC=1SC(=C(N1)C)C(=O)OCC | C13H13N3O3S
reactant | sodium hydroxide | 10.00 mmol, 0.40 g | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 2-(Isonicotinamido)-4-methylthiazole-5-carboxylic Acid | 89% yield | C(C1=CC=NC=C1)(=O)NC=1SC(=C(N1)C)C(=O)O | C11H9N3O3S
